US05328970
In a sufficiently dried egg-plant type flask provided with a stirrer was charged 0.176 g (2 mmol) of sufficiently purified isobutyric acid, which was sufficiently dried. After completion of the drying, 3.3 ml of methylene chloride was added thereto. Then, under nitrogen atmosphere, 0.9 ml (1 mmol) of trimethylaluminum was slowly added dropwise with ice-cooling and stirring, and the mixture was mixed in the dark at room temperature for 1 hour to obtain a methylene chloride solution of methylaluminum bis(isobutyrate) (1 mmol/3.3 ml).

reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
reactant | trimethylaluminum | 1 mmol, 0.9 ml | C[Al](C)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methylaluminum bis(isobutyrate) | 1 mmol, 3.3 ml | C(C(C)C)(=O)[O-].C(C(C)C)(=O)[O-].C[Al+2] | InChI=1S/2C4H8O2.CH3.Al/c2*1-3(2)4(5)6;;/h2*3H,1-2H3,(H,5,6);1H3;/q;;;+2/p-2
